US04179511
6-(2-[Benzamido]acetamido)-2,2-dimethyl-3-(5-tetrazolyl)penam
To a stirred solution of 0.80 g. (2.7 mmole) of 6-(2-aminoacetamido)-2,2-dimethyl-3-(5-tetrazolyl)penam and 0.453 g. (5.4 mmole) of sodium bicarbonate in 21 ml. of water and 15 ml. of acetone at 0°-5° C. is added 0.32 ml. (2.8 mmole) of benzoyl chloride. Stirring is continued for a further 20 minutes at ca. 0° C., and then the acetone is removed in vacuo. The aqueous residue is extracted with ethyl acetate and the extracts are discarded. The pH of the aqueous phase is adjusted to 2.0, and the product is extracted into ethyl acetate. The solvent is dried (Na2SO4), and then concentrated in vacuo to give 150 mg. (37% yield) of the title compound, m.p. 85°-93° C. IR (KBr disc): 1785 cm-1 (β-lactam) and 1695 cm-1 (amide I). NMR (in D2O): 7.90 ppm (m,2 H), 7.50 ppm (m,3H), 5.82 ppm (s,1H), 5.58 ppm (s,1H), 5.19 ppm (s,1H), 4.25 ppm (m,2H), 1.67 ppm (s,3H), 1.67 ppm (s,1H).

reactant | 6-(2-aminoacetamido)-2,2-dimethyl-3-(5-tetrazolyl)penam | 2.7 mmole | NCC(=O)NC1[C@@H]2N(C(C(S2)(C)C)C2=NN=NN2)C1=O | C10H15N7O2S
reactant | sodium bicarbonate | 5.4 mmole | C([O-])(O)=O.[Na+]
reactant | water | O | H2O
reactant | benzoyl chloride | 2.8 mmole | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | acetone | CC(=O)C | C3H6O
product | 6-(2-[Benzamido]acetamido)-2,2-dimethyl-3-(5-tetrazolyl)penam | 37% yield | C(C1=CC=CC=C1)(=O)NCC(=O)NC1[C@@H]2N(C(C(S2)(C)C)C2=NN=NN2)C1=O | C17H19N7O3S
